US05545742
Preparation of Methyl 2-(4-aminophenoxy)propionate
A solution of methyl 2-(4-nitrophenoxy)propionate (10 g, 0.044 mol) in ethyl acetate is added dropwise to a mixture of iron dust (7.37 g, 0.132 mol) in a 5% acetic acid solution at 65° C. The reaction mixture is stirred at 65° C. for 30 minutes, cooled to room temperature and filtered through diatomaceous earth. The resultant filtrate is diluted with water and extracted with ethyl acetate. The organic extracts are combined, washed sequentially with saturated sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title product as an oil which is identified by NMR spectral analyses.

reactant | methyl 2-(4-nitrophenoxy)propionate | 0.044 mol, 10 g | [N+](=O)([O-])C1=CC=C(OC(C(=O)OC)C)C=C1 | C10H11NO5
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron | 0.132 mol, 7.37 g | [Fe] | Fe
product | Methyl 2-(4-aminophenoxy)propionate | NC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H13NO3
